US05364871
A solution of bromine (1.61 g) in acetic acid (4 ml) was added dropwise to a mixture of 5-acetyl-2-acetylaminomethylthiazole (2.00 g), 30 (W/W) % hydrobromic acid solution in acetic acid (5 ml) and acetic acid (40 ml) at ambient temperature. After stirring for 24 hours at ambient temperature, the resulting precipitate was collected by filtration and washed with acetic acid to give 2-(acetylaminomethyl)-5-bromoacetylthiazole (3.00 g).

reactant | bromine | 1.61 g | BrBr | Br2
reactant | 5-acetyl-2-acetylaminomethylthiazole | 2.00 g | C(C)(=O)C1=CN=C(S1)CNC(C)=O | C8H10N2O2S
reactant | hydrobromic acid | Br | BrH
solvent | acetic acid | 4 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 40 ml | C(C)(=O)O | C2H4O2
product | 2-(acetylaminomethyl)-5-bromoacetylthiazole | 3.00 g | C(C)(=O)NCC=1SC(=CN1)C(CBr)=O | C8H9BrN2O2S
